US07297704B2
Step 4: 8-(Hydroxymethyl)-6,7,8,9-tetrahydrodibenzo[b,d]thiophene-2-carbonitrile
To a room temperature solution of ethyl 8-cyano-1,2,3,4-tetrahydrodibenzo[b,d]thiophene-2-carboxylate (0.72 g, 2.53 mmol) in THF (4 mL) was added LiBH4 (6.33 mL of 2 N solution in THF, 12.66 mmol). The reaction was heated at reflux for 5.5 hour, then was cooled in ice water, and quenched with 7 mL of 1 N NaOH (aq) solution. After stirring for a few minutes at room temperature, the mixture was extracted with EtOAc. The organic layer was washed with water, then brine, then was dried over MgSO4, filtered, and concentrated. Purification by chromatography on silica gel (50% EtOAc in hexane) afforded 0.24 g (39%) of the title compound as a white solid: mp 165-166° C.; MS (ES) m/z=243 [M]+.

reactant | ethyl 8-cyano-1,2,3,4-tetrahydrodibenzo[b,d]thiophene-2-carboxylate | 2.53 mmol, 0.72 g | C(#N)C=1C=CC2=C(C3=C(S2)CCC(C3)C(=O)OCC)C1 | C16H15NO2S
reactant | LiBH4 | 12.66 mmol, 2 N, 6.33 mL | [Li+].[BH4-]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 8-(Hydroxymethyl)-6,7,8,9-tetrahydrodibenzo[b,d]thiophene-2-carbonitrile | 0.24 g, 39% | OCC1CCC2=C(C3=C(S2)C=CC(=C3)C#N)C1 | C14H13NOS
